US04180670
N-[α-(2-benzthiazolyl)benzyl]-4-pyridinamine
The title compound is prepared in a manner similar to Examples 5, 6 and 7 by reacting 2-benzthiazolyl lithium (formed by treating benzothiazole with butyl lithium) and 4-benzylideneaminopyridine.

reactant | 2-benzthiazolyl lithium | S1C(=NC2=C1C=CC=C2)[Li]
reactant | 4-benzylideneaminopyridine | C(C1=CC=CC=C1)=NC1=CC=NC=C1 | C12H10N2
product | N-[α-(2-benzthiazolyl)benzyl]-4-pyridinamine | S1C(=NC2=C1C=CC=C2)C(C2=CC=CC=C2)NC2=CC=NC=C2 | C19H15N3S
